US05461045
[1-(2-Diphenylmethyloxyethyl)-1,2,3,4-tetrahydro-naphthalen-5-yloxy]acetic acid ethyl ester
Potassium t-butoxide (810 mg) was added to a solution of [1-(2-hydroxyethyl)-1,2,3,4-tetrahydronaphthalen-5-yloxy]acetic acid ethyl ester (2.11 g, prepared by the same procedure as in reference example 1) in dimethylformamide (50 ml) at 0° C. The reaction mixture was stirred for 1 hr at room temperature. Benzhydryl bromide (2.15 g) was added to the mixture at 0° C. The mixture was stirred for 1 hr at room temperature. To the mixture, a saturated aqueous solution of ammonium chloride and ether were added. The extract was washed with water and saturated brine, dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (n-hexane: ethyl acetate=8: 2) to give the title compound (257 mg).

reactant | Potassium t-butoxide | 810 mg | CC(C)([O-])C.[K+]
reactant | [1-(2-hydroxyethyl)-1,2,3,4-tetrahydronaphthalen-5-yloxy]acetic acid ethyl ester | C(C)OC(COC1=C2CCCC(C2=CC=C1)CCO)=O | C16H22O4
reactant | Benzhydryl bromide | 2.15 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | [1-(2-Diphenylmethyloxyethyl)-1,2,3,4-tetrahydro-naphthalen-5-yloxy]acetic acid ethyl ester | 257 mg | C(C)OC(COC1=C2CCCC(C2=CC=C1)CCOC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H32O4
